US05084522
Preparation of 1-(1-acetoxy-1-methylethyl)-4-ethenyl-benzene
A mixture of 6.7 g of 1-(1-hydroxy-1-methylethyl)-4-ethenyl-benzene and 4.0 g of pyridine in 100 ml of dichloromethane was stirred while 4.0 g of acetyl chloride in 20 ml of dichloromethane was added dropwise. After the addition was complete, the mixture was refluxed gently overnight. After cooling, an additional 30 ml of dichloromethane was added and the mixture was then washed with 50 ml of cold 5% aqueous HCl, and then several times with 30 ml portions of water. After drying over magnesium sulfate, filtering, and concentrating, the crude product was purified by HPLC using ethyl/acetate hexane as eluent. This method affords 4.05 g (47.5% yield) of the desired compound.

reactant | 1-(1-hydroxy-1-methylethyl)-4-ethenyl-benzene | 6.7 g | OC(C)(C)C1=CC=C(C=C1)C=C | C11H14O
reactant | pyridine | 4.0 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.0 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(1-acetoxy-1-methylethyl)-4-ethenyl-benzene | 4.05 g, 47.5% yield | C(C)(=O)OC(C)(C)C1=CC=C(C=C1)C=C | C13H16O2
